US04125729
α-(p-Fluorophenoxy)-α-[p-(p-chlorophenoxy)phenyl]acetic acid
To a solution of 2.80 g of p-fluorophenol and 1.19 g of sodium methoxide in 40 ml of methanol is added 50 mg of potassium iodide and 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate in 10 ml of benzene. The mixture is refluxed for 20 hours and the solvent removed under vacuum. To the residue is added water and the mixture is extracted with ether. The ether extracts are washed with 10% potassium carbonate and with water and dried (MgSO4). The solvent is removed under vacuum to given a tan oil. The oil is dissolved in 60 ml. of ethanol and 6 ml of water and 5 g of potassium hydroxide is added. The mixture is refluxed for 3.5 hours, acidified with concentrated hydrochloric acid, diluted with water and poured onto ice. The mixture is extracted with chloroform and the extracts washed with water and dried over magnesium sulfate. Concentration in vacuo gives an oil. The oil is dissolved in aqueous sodium bicarbonate and the mixture extracted with chloroform. The aqueous layer is acidified with concentrated hydrochloric acid, extracted with ether and the extracts dried (MgSO4). Removal of the solvent in vacuo gives the product as a tan oil. A small sample is crystallized, mp 106°-111° C.

reactant | p-fluorophenol | 2.80 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | α-(p-Fluorophenoxy)-α-[p-(p-chlorophenoxy)phenyl]acetic acid | FC1=CC=C(OC(C(=O)O)C2=CC=C(C=C2)OC2=CC=C(C=C2)Cl)C=C1 | C20H14ClFO4
